US09238639B2
A) (4-Ethyl-2-methyl-1,3-thiazol-5-yl)methanol
To a borane tetrahydrofuran complex solution (1.2 M in THF, 5 mL) was added 4-ethyl-2-methylthiazole-5-carboxylic acid (400 mg) at 0° C. The mixture was stirred at 0° C. to room temperature under argon atmosphere overnight. To the mixture was added 1N HCl at room temperature, and the mixture was extracted with EtOAc. The organic layer was separated, washed successively with brine and water, dried over Na2SO4 and concentrated in vacuo. The residue was purified by silica gel column chromatography (EtOAc/hexane) to give the title compound (125 mg).

reactant | 4-ethyl-2-methylthiazole-5-carboxylic acid | 400 mg | C(C)C=1N=C(SC1C(=O)O)C | C7H9NO2S
reactant | HCl | 1N | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
product | (4-Ethyl-2-methyl-1,3-thiazol-5-yl)methanol | 125 mg | C(C)C=1N=C(SC1CO)C | C7H11NOS
